US04831034
A solution of 2-chloro-4-phenylpyridine (11.4 g) and 4-(4-methylbenzyl)piperazine (11.4 g) in 1,2,4-trichlorobenzene (40 cc) is heated for 5 hours at 170° C. After the mixture is cooled to a temperature in the region of 20° C., isopropyl ether (200 cc) is added. The precipitate formed is separated by filtration, washed with isopropyl ether (50 cc) and then dissolved in ethyl acetate (250 cc). 5N aqueous sodium hydroxide solution (16 cc) is added, followed by distilled water (100 cc). The organic solution is decanted and the aqueous phase washed with ethyl acetate (2×50 cc). The organic extracts are combined, dried over anhydrous magnesium sulphate, filtered and evaporated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. The residue is dissolved in 2-propanol (75 cc); decolorizing charcoal (0.5 g) is added and the mixture is heated to 100° C. for 30 minutes, filtered on diatomaceous earth and cooled to 10° C. for 1 hour. The precipitate formed is separated by filtration and washed with 2-propanol (2×10 cc). 2-[4-(4-Methylbenzyl)-1-piperazinyl]-4-phenylpyridine (8 g), m.p. 103° C., is thereby obtained.

reactant | 2-chloro-4-phenylpyridine | 11.4 g | ClC1=NC=CC(=C1)C1=CC=CC=C1 | C11H8ClN
reactant | 4-(4-methylbenzyl)piperazine | 11.4 g | CC1=CC=C(CN2CCNCC2)C=C1 | C12H18N2
reactant | isopropyl ether | 200 cc | C(C)(C)OC(C)C | C6H14O
solvent | 1,2,4-trichlorobenzene | 40 cc | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
product | 2-[4-(4-Methylbenzyl)-1-piperazinyl]-4-phenylpyridine | 8 g | CC1=CC=C(CN2CCN(CC2)C2=NC=CC(=C2)C2=CC=CC=C2)C=C1 | C23H25N3
